US06472562B1
a) 4-Bromo-3-[2-(2,4-dichlorophenyl)ethoxy]-5-hydroxybenzoic acid ethyl ester
To a solution of 17.8 g (67.9 mmol) of triphenylphosphane, 8.8 ml (67.9 mmol) of 2-(2,4-dichlorophenyl)ethanol and 16 g (61.3 mmol) of 4-bromo-3,5-dihydroxybenzoic acid ethyl ester in 25 ml of THF was added a solution of 10.6 ml (67.9 mmol) of DEAD in 40 ml of THF within 45 min between 620 and 18° C. After 16 h at room temperature the solvent was removed and the residue was stirred with cyclohexane/ethyl acetate (1/1) and filtered. The solid residue was stirred with cyclohexane and filtered. The remaining solid was separated by chromatography (cyclohexane/ethyl acetate (1/1)) to give 25.6 g (96%) of the title compound.

reactant | triphenylphosphane | 67.9 mmol, 17.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(2,4-dichlorophenyl)ethanol | 67.9 mmol, 8.8 ml | ClC1=C(C=CC(=C1)Cl)CCO | C8H8Cl2O
reactant | 4-bromo-3,5-dihydroxybenzoic acid ethyl ester | 61.3 mmol, 16 g | C(C)OC(C1=CC(=C(C(=C1)O)Br)O)=O | C9H9BrO4
reactant | DEAD | 67.9 mmol, 10.6 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-Bromo-3-[2-(2,4-dichlorophenyl)ethoxy]-5-hydroxybenzoic acid ethyl ester | 25.6 g, 96% | C(C)OC(C1=CC(=C(C(=C1)O)Br)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C17H15BrCl2O4
